### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/SimplexCategory/GeneratorsRelations): the category `SimplexCategoryGenRel`

### PR DESCRIPTION
**Pull request by robin-carlier**
Define `SimplexCategoryGenRel` as the category presented by generators and relation by the following data:
  - Objects are natural numbers. The constructor is `SimplexCategoryGenRel.mk`.
  - Morphisms are generated by two classes of morphisms : `δ {n : ℕ} (i : Fin (n + 2)) : mk n ⟶ mk (n + 1)` and `σ {n : ℕ} (i : Fin (n + 1)) : mk (n + 1) ⟶ mk n`
  - Morphisms are subject to the simplicial relations, i.e the relations proven for `SimplexCategory` in `AlgebraicTopology/SimplexCategory.lean`

We provide induction principles for objects and morphisms for this category, and construct a canonical functor to `SimplexCategory`.

Part of a series of PR formalising that `SimplexCategoryGenRel` is equivalent to `SimplexCategory`.

---

- [x] depends on: #21864

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,306 @@
+/-
+Copyright (c) 2025 Robin Carlier. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Robin Carlier
+-/
+import Mathlib.AlgebraicTopology.SimplexCategory
+import Mathlib.CategoryTheory.PathCategory.Basic
+/-! # Presentation of the simplex category by generator and relations.
+
+We introduce `SimplexCategoryGenRel` as a the category presented by generating
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:10]:
```suggestion
We introduce `SimplexCategoryGenRel` as the category presented by generating
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,306 @@
...
+
+/-- Making an object of `FreeSimplexQuiver` out of a natural number. -/
+def FreeSimplexQuiver.mk (n : ℕ) : FreeSimplexQuiver := n
+
+/-- Getting back the natural number from the objects. -/
+def FreeSimplexQuiver.len (x : FreeSimplexQuiver) : ℕ := x
+
+namespace FreeSimplexQuiver
+
+/-- A morphisms in `FreeSimplexQuiver` is either a face map (`δ`) or a degeneracy map (`σ`). -/
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:33]:
```suggestion
/-- A morphism in `FreeSimplexQuiver` is either a face map (`δ`) or a degeneracy map (`σ`). -/
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,306 @@
...
+  FreeSimplexQuiver.Hom.δ i
+
+/-- `FreeSimplexQuiver.σ i` represents `i`-th degeneracy map `.mk (n + 1) ⟶ .mk n`. -/
+abbrev σ {n : ℕ} (i : Fin (n + 1)) : FreeSimplexQuiver.mk (n + 1) ⟶ .mk n :=
+  FreeSimplexQuiver.Hom.σ i
+
+/-- `FreeSimplexQuiver.homRel` is the relation on morphisms freely generated on the
+five simplicial identities. -/
+inductive homRel : HomRel (Paths FreeSimplexQuiver)
+  | simplicial1 {n : ℕ} {i j : Fin (n + 2)} (H : i ≤ j) : homRel
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:52]: Instead of `simplicial1`, etc, the names of the constructors could be parallel to the corresponding lemmas like `δ_comp_δ`, etc.

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,306 @@
...
+    P f := by
+  apply CategoryTheory.Quotient.induction (P := (fun f ↦ P f))
+  apply Paths.induction'
+  · exact hi
+  · rintro _ _ _ ⟨⟩ _
+    · exact hc₁ _ _
+    · exact hc₂ _ _
+
+/-- An induction principle for reasonning about morphisms properties in SimplexCategoryGenRel. -/
+lemma hom_induction_eq_top (P : MorphismProperty SimplexCategoryGenRel)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:130]: This may be slightly better:
```suggestion
lemma morphismProperty_eq_top (P : MorphismProperty SimplexCategoryGenRel)
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,306 @@
...
+    P = ⊤ := by
+  ext; constructor
+  · simp
+  · intro _
+    apply hom_induction' <;> assumption
+
+/-- An induction principle for reasonning about objects in SimplexCategoryGenRel. This should be
+used instead of identifying an object with `mk` of its len.-/
+@[elab_as_elim]
+def obj_induction {P : SimplexCategoryGenRel → Sort*}
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:157]: I think `rec` is the standard name for these:
```suggestion
protected def rec {P : SimplexCategoryGenRel → Sort*}
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,306 @@
...
+    (H : ∀ n : ℕ, P (.mk n)) :
+    ∀ x : SimplexCategoryGenRel, P x := by
+  intro x
+  exact H x.len
+
+/-- A basic ext lemma for objects of SimplexCategoryGenRel --/
+@[ext]
+lemma obj_ext {x y : SimplexCategoryGenRel} (h : x.len = y.len) : x = y := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:165]: In other categories, we typically have `hom_ext` and `ext`:
```suggestion
lemma ext {x y : SimplexCategoryGenRel} (h : x.len = y.len) : x = y := by
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,306 @@
...
+
+@[reassoc]
+theorem σ_comp_σ {n} {i j : Fin (n + 1)} (H : i ≤ j) :
+    σ i.castSucc ≫ σ j = σ j.succ ≫ σ i := by
+  apply CategoryTheory.Quotient.sound
+  exact FreeSimplexQuiver.homRel.simplicial5 H
+
+/-- A version of δ_comp_δ with indices in ℕ satisfying relevant inequalities. -/
+lemma δ_comp_δ_nat {n} (i j : ℕ) (hi : i < n + 2) (hj : j < n + 2) (H : i ≤ j) :
+    δ (i : Fin (n + 2)) ≫ δ ↑(j + 1) = δ ↑j ≫ δ ↑i := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:212]: The coercion from `ℕ` to `Fin` does not have good definitional properties. It would be easier to avoid it. If you absolutely need a version with natural numbers, I think it should be phrased as:
```suggestion
/-- A version of δ_comp_δ with indices in `ℕ` satisfying relevant inequalities. -/
lemma δ_comp_δ_nat {n} (i j : ℕ) (hi : i < n + 2) (hj : j < n + 2) (H : i ≤ j) :
    δ ⟨i, hi⟩ ≫ δ ⟨j + 1, by omega⟩ = δ ⟨j, hj⟩ ≫ δ ⟨i, by omega⟩ :=
  δ_comp_δ (n := n) (i := ⟨i, by omega⟩) (j := ⟨j, by omega⟩) (by simpa)
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,306 @@
...
+              | FreeSimplexQuiver.Hom.δ i => SimplexCategory.δ i
+              | FreeSimplexQuiver.Hom.σ i => SimplexCategory.σ i }
+  · intro x y f₁ f₂ h
+    cases h with
+    | simplicial1 H => exact SimplexCategory.δ_comp_δ H
+    | simplicial2 H => exact SimplexCategory.δ_comp_σ_of_le H
+    | simplicial3₁ => exact SimplexCategory.δ_comp_σ_self
+    | simplicial3₂ => exact SimplexCategory.δ_comp_σ_succ
+    | simplicial4 H => exact SimplexCategory.δ_comp_σ_of_gt H
+    | simplicial5 H => exact SimplexCategory.σ_comp_σ H
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:287]:
```suggestion
def toSimplexCategory : SimplexCategoryGenRel ⥤ SimplexCategory :=
  CategoryTheory.Quotient.lift _
    (Paths.lift
      { obj := .mk
        map f := match f with
          | FreeSimplexQuiver.Hom.δ i => SimplexCategory.δ i
          | FreeSimplexQuiver.Hom.σ i => SimplexCategory.σ i })
    (fun _ _ _ _ h ↦ by
      cases h with
      | simplicial1 H => exact SimplexCategory.δ_comp_δ H
      | simplicial2 H => exact SimplexCategory.δ_comp_σ_of_le H
      | simplicial3₁ => exact SimplexCategory.δ_comp_σ_self
      | simplicial3₂ => exact SimplexCategory.δ_comp_σ_succ
      | simplicial4 H => exact SimplexCategory.δ_comp_σ_of_gt H
      | simplicial5 H => exact SimplexCategory.σ_comp_σ H)
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,257 @@
...
+
+We introduce `SimplexCategoryGenRel` as the category presented by generating
+morphisms `δ i : [n] ⟶ [n + 1]` and `σ i : [n + 1] ⟶ [n]` and subject to the
+simplicial identities, and we provide induction principles for reasoning about
+objects and morphisms in this category.
+
+This category admits a canonical functor `toSimplexCategory` to the usual simplex category.
+The fact that this functor is an equivalence will be recorded in a separate file.
+-/
+namespace AlgebraicTopology
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:18]: `SimplexCategory` is in the root namespace.
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,253 @@
...
+
+namespace SimplexCategoryGenRel
+
+/-- `SimplexCategoryGenRel.δ i` is the `i`-th face map `.mk n ⟶ .mk (n + 1)`. -/
+abbrev δ {n : ℕ} (i : Fin (n + 2)) : (SimplexCategoryGenRel.mk n) ⟶ .mk (n + 1) :=
+  (Quotient.functor FreeSimplexQuiver.homRel).map <| Paths.of.map (.δ i)
+
+/-- `SimplexCategoryGenRel.σ i` is the `i`-th degeneracy map `.mk (n + 1) ⟶ .mk n`. -/
+abbrev σ {n : ℕ} (i : Fin (n + 1)) :
+    (SimplexCategoryGenRel.mk (n + 1)) ⟶ (SimplexCategoryGenRel.mk n) :=
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:86]: Untested, but it the above works, this one should also:
```suggestion
    (SimplexCategoryGenRel.mk (n + 1)) ⟶ .mk n :=
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,253 @@
...
+      | δ_comp_σ_succ => exact SimplexCategory.δ_comp_σ_succ
+      | δ_comp_σ_of_gt H => exact SimplexCategory.δ_comp_σ_of_gt H
+      | σ_comp_σ H => exact SimplexCategory.σ_comp_σ H)
+
+@[simp]
+lemma toSimplexCategory_obj_mk (n : ℕ) : toSimplexCategory.obj (mk n) = .mk n := rfl
+
+@[simp]
+lemma toSimplexCategory_map_δ {n : ℕ} (i : Fin (n + 2)) : toSimplexCategory.map (δ i) =
+    SimplexCategory.δ i := rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:243]: If the statement can fit into one line, this is preferred:
```suggestion
lemma toSimplexCategory_map_δ {n : ℕ} (i : Fin (n + 2)) :
    toSimplexCategory.map (δ i) = SimplexCategory.δ i := rfl
```
Same below.

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,251 @@
...
+/-- The canonical functor from `SimplexCategoryGenRel` to SimplexCategory, which exists as the
+simplicial identities hold in `SimplexCategory`. -/
+def toSimplexCategory : SimplexCategoryGenRel ⥤ SimplexCategory :=
+  CategoryTheory.Quotient.lift _
+    (Paths.lift
+      { obj := .mk
+        map f := match f with
+          | FreeSimplexQuiver.Hom.δ i => SimplexCategory.δ i
+          | FreeSimplexQuiver.Hom.σ i => SimplexCategory.σ i })
+    (fun _ _ _ _ h ↦ match h with
```
[the remark this answers is not in the document]
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:228]: bot style fix

[the remark this answers is not in the document]
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:228]: bot fix style

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 13]
```diff
@@ -0,0 +1,251 @@
...
+/-- The length of an object of `SimplexCategoryGenRel`. -/
+def len (x : SimplexCategoryGenRel) : ℕ := by rcases x with ⟨n⟩; exact n
+
+@[simp]
+lemma mk_len (n : ℕ) : len (mk n) = n := rfl
+
+section InductionPrinciples
+
+/-- An induction principle for reasonning about morphisms properties in SimplexCategoryGenRel. -/
+lemma hom_induction (P : MorphismProperty SimplexCategoryGenRel)
```
[the remark this answers is not in the document]
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:97]: I'll try implementing this then!

[the remark this answers is not in the document]
Comment (robin-carlier) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:127]: I ended up leaving the statement for `hom_induction` and `hom_induction'`as they were since it’s useful to have them in "unrolled" form, but their proof now relies on the content of #21864

**Comment by joelriou** [comment]
Could you merge with master?

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 14]
```diff
@@ -0,0 +1,277 @@
+/-
+Copyright (c) 2025 Robin Carlier. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Robin Carlier
+-/
+import Mathlib.AlgebraicTopology.SimplexCategory.Basic
+import Mathlib.CategoryTheory.PathCategory.Basic
+/-! # Presentation of the simplex category by generator and relations.
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:8]:
```suggestion
/-! # Presentation of the simplex category by generators and relations.
```

File: Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,277 @@
...
+/-- The length of an object of `SimplexCategoryGenRel`. -/
+def len (x : SimplexCategoryGenRel) : ℕ := by rcases x with ⟨n⟩; exact n
+
+@[simp]
+lemma mk_len (n : ℕ) : len (mk n) = n := rfl
+
+section InductionPrinciples
+
+/-- A morphism is called a face if it is a `δ i` for some `i : Fin (n + 2)`. -/
+inductive IsFace : MorphismProperty SimplexCategoryGenRel
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:97]: Both `IsFace` and `isFace` are ok in principle, but the API favours considering classes of morphisms as terms in `MorphismProperty` rather than types:
```suggestion
inductive isFace : MorphismProperty SimplexCategoryGenRel
```
(Same for `IsDegeneracy` and `IsGenerator`.)

Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplexCategory/GeneratorsRelations/Basic.lean:97]: Actually, I would suggest using names like `faces`, `degeneracies`, `generators`.

**Comment by joelriou** [comment]
Thanks!

bors merge
